US07202253B2
A solution of C-(1-phenyl-cyclohexyl)-methylamine (0.28 g; 1.48 mmol) in tetrahydrofuran (10 mL) at room temperature was treated with triethylamine (0.3 mL; 2.2 mmol) and 2,4-dichloro-quinazoline (0.32 g; 1.62 mmol). The reaction was stirred at room temperature 12 h at which time the solvent was removed by rotary evaporation. The crude residue was portioned between ethyl acetate and 10% aqueous HCl. The organic layer was separated, washed with saturated aqueous sodium chloride, dried (magnesium sulfate), filtered and concentrated. The product was recrystallized from methylene chloride to give (2-chloro-quinazolin-4-yl)-(1-phenyl-cyclohexylmethyl)-amine as a white solid. LCMS m/z=352.2 (M+H)+

reactant | C-(1-phenyl-cyclohexyl)-methylamine | 1.48 mmol, 0.28 g | C1(=CC=CC=C1)C1(CCCCC1)CN | C13H19N
reactant | triethylamine | 2.2 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-quinazoline | 1.62 mmol, 0.32 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (2-chloro-quinazolin-4-yl)-(1-phenyl-cyclohexylmethyl)-amine | ClC1=NC2=CC=CC=C2C(=N1)NCC1(CCCCC1)C1=CC=CC=C1 | C21H22ClN3
